US07585886B2
An 8.0 ml ethyl acetate solution of 318 mg of 1-acetylpiperidine-4-carboxylic acid was mixed with 0.18 ml of ethyl chloroformate, 0.52 ml of triethylamine and 400 mg of tert-butyl [(1R)-1-(1-naphthyl)ethyl][(4-phenylpyrrolidin-3-yl)methyl]carbamate in that order and stirred at room temperature for 30 minutes. This was mixed with 10 ml of water and extracted with ethyl acetate. The solvent was evaporated, and the thus obtained residue was purified by a silica gel column chromatography (chloroform-methanol). This was treated with 4 M hydrogen chloride/ethyl acetate and concentrated to dryness to obtain 75 mg of (1R)—N-({1-[(1-acetylpiperidin-4-yl)carbonyl]-4-phenylpyrrolidin-3-yl}methyl)-1-(1-naphthyl)ethanamine hydrochloride as a pale pink solid.

reactant | ethyl acetate | 8.0 ml | C(C)(=O)OCC | C4H8O2
reactant | 1-acetylpiperidine-4-carboxylic acid | 318 mg | C(C)(=O)N1CCC(CC1)C(=O)O | C8H13NO3
reactant | ethyl chloroformate | 0.18 ml | ClC(=O)OCC | C3H5ClO2
reactant | tert-butyl [(1R)-1-(1-naphthyl)ethyl][(4-phenylpyrrolidin-3-yl)methyl]carbamate | 400 mg | C1(=CC=CC2=CC=CC=C12)[C@@H](C)N(C(OC(C)(C)C)=O)CC1CNCC1C1=CC=CC=C1 | C28H34N2O2
solvent | water | 10 ml | O | H2O
solvent | triethylamine | 0.52 ml | C(C)N(CC)CC | C6H15N
product | (1R)—N-({1-[(1-acetylpiperidin-4-yl)carbonyl]-4-phenylpyrrolidin-3-yl}methyl)-1-(1-naphthyl)ethanamine hydrochloride | 75 mg | Cl.C(C)(=O)N1CCC(CC1)C(=O)N1CC(C(C1)C1=CC=CC=C1)CN[C@H](C)C1=CC=CC2=CC=CC=C12 | InChI=1S/C31H37N3O2.ClH/c1-22(28-14-8-12-24-11-6-7-13-29(24)28)32-19-27-20-34(21-30(27)25-9-4-3-5-10-25)31(36)26-15-17-33(18-16-26)23(2)35;/h3-14,22,26-27,30,32H,15-21H2,1-2H3;1H/t22-,27?,30?;/m1./s1
